US09079866B2
Step A: 2-(2-Bromophenylsulfonyl)-2-methylpropan-1-amine
BH3.THF (4 mL, 1 M in THF) was added drop-wise to a solution of 2-((2-bromophenyl)sulfonyl)-2-methylpropanenitrile (258 mg, 1.00 mmol) in THF (1 mL) at rt. The mixture was refluxed for 4 hours and then cooled to rt. Aqueous HCl (5 mL, 6 N) was added and stirring continued for an additional 1 hour. The mixture was basified to pH=9 by addition of NaOH (6 N), diluted with water (20 mL), and extracted with DCM (3×20 mL). The combined extracts were washed with water (2×30 mL) and brine (60 mL), dried over Na2SO4, filtered, and concentrated to dryness to give the crude title compound (203 mg, 70%), which was used in the subsequent step without further purification. MS (ESI): mass calcd. for C10H14NO2S, 290.99; m/z found, 292.1 [M+H]+.

reactant | BH3.THF | 1 M, 4 mL | B.C1CCOC1
reactant | 2-((2-bromophenyl)sulfonyl)-2-methylpropanenitrile | 1.00 mmol, 258 mg | BrC1=C(C=CC=C1)S(=O)(=O)C(C#N)(C)C | C10H10BrNO2S
reactant | HCl | 6 N, 5 mL | Cl | ClH
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 2-(2-Bromophenylsulfonyl)-2-methylpropan-1-amine | 203 mg, 70% | BrC1=C(C=CC=C1)S(=O)(=O)C(CN)(C)C | C10H14BrNO2S
